US07915250B2
1-(Diphenylmethyl)-3-hydroxyazetidine-3-carboxamide (1.1 g, 3.90 mmol) was treated with 10% sodium hydroxide in ethanol (15 mL) and water (2 mL) at reflux for 2 h and then was concentrated in vacuo. The residue was neutralized with 1 N hydrochloric acid (pH ˜7) and the precipitate was collected by filtration and lyophilized to afford 1-(diphenylmethyl)-3-hydroxyazetidine-3-carboxylic acid (assume 3.90 mmol) which was used without further purification: 1H NMR (400 MHz, d6-DMSO): 7.45-7.40 (m, 4H), 7.31-7.25 (m, 4H), 7.21-7.15 (m, 2H), 4.52 (s, 1H), 3.46 (dd, 2H), 3.02 (dd, 2H); MS (EI) for C17H17NO3: 284 (MH+).

reactant | 1-(Diphenylmethyl)-3-hydroxyazetidine-3-carboxamide | 3.90 mmol, 1.1 g | C1(=CC=CC=C1)C(N1CC(C1)(C(=O)N)O)C1=CC=CC=C1 | C17H18N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
product | 1-(diphenylmethyl)-3-hydroxyazetidine-3-carboxylic acid | 3.90 mmol | C1(=CC=CC=C1)C(N1CC(C1)(C(=O)O)O)C1=CC=CC=C1 | C17H17NO3
